US20010003782A1
3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid cyclohexyl ester
3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid (0.2 g) is suspended in 10 ml of cyclohexanol, 0.1 ml of boron trifluoride diethyl etherate is added and the mixture is stirred at 55-60° C. for 20 hours. After evaporation to dryness under reduced pressure, the remanens is purified by column chromatography and crystallized from methanol to give the title compound pound (49 mg). Melting point: 130-132° C. 1H-NMR (CDCl3): δ=5.35 (1H, s); 4.75 (1H, m); 3.24 (1H, m). MS: Calculated: 482.8. Found 482.4.

reactant | 3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid | 0.2 g | O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C26H40O3
reactant | boron trifluoride diethyl etherate | 0.1 ml | B(F)(F)F.CCOCC
solvent | cyclohexanol | 10 ml | C1(CCCCC1)O | C6H12O
product | 3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid cyclohexyl ester | C1(CCCCC1)OC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O)(C)C)=O | C32H50O3
